datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]=[C:2]([C:3]([H:8])([H:9])[H:10])[C:4](=[C:5]([H:12])[H:13])[H:11])([H:6])[H:7].[C:14](=[C:15]([C:16]([C:17]([H:23])([H:24])[H:25])[C:18](=[C:19]([H:27])[H:28])[H:26])[H:22])([H:20])[H:21]>>[C:0](=[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4](=[C:5]([H:12])[H:13])[H:11])[C:16]([C:15](=[C:14]([H:20])[H:21])[H:22])([C:17]([H:23])([H:24])[H:25])[C:18](=[C:19]([H:27])[H:28])[H:26])([H:6])[H:7],80.9604
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:27])([H:28])[H:29])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])([H:10])[H:11].[O:30]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:28])[H:29])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])([H:10])[H:11].[H:27][O:30],11.572944
[C:0](#[C:1][C:2](=[C:3]([C:4]([C:5]([C:6]([H:14])([H:15])[H:16])[C:7](=[C:8]([H:18])[H:19])[H:17])([H:12])[H:13])[H:11])[H:10])[H:9]>>[C:0](#[C:1][C:2]1([H:10])[C:3]([H:11])[C:4]([H:12])([H:13])[C:5]1([C:6]([H:14])([H:15])[H:16])[C:7](=[C:8]([H:18])[H:19])[H:17])[H:9],169.285
[O:0][O:1][H:2].[O:3][O:4][C:5]([O:6][H:9])([H:7])[H:8]>>[H:2][O:3][O:4][C:5]([O:6][H:9])([H:7])[H:8].[O:0][O:1],-13.7026
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:7])([H:5])[H:6].[C:13]([C:14]([C:15]([H:25])([H:26])[H:27])[c:16]1[c:17]([H:28])[c:18]([H:29])[c:19]([H:30])[c:20]([H:31])[c:21]1[H:32])([H:22])([H:23])[H:24]>>[C:0](=[C:1]([C:2]([C:3]([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[C:14]([C:13]([H:22])([H:23])[H:24])([C:15]([H:25])([H:26])[H:27])[c:16]1[c:17]([H:28])[c:18]([H:29])[c:19]([H:30])[c:20]([H:31])[c:21]1[H:32])[H:7])([H:5])[H:6],45.4382
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:13])[H:14])=[C:7]([C:8]([H:21])([H:22])[H:23])[C:9]([H:24])([H:25])[H:26])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]1[C:3]([H:13])([H:14])[C:4]([C:5]([H:15])([H:16])[H:17])([C:6]([H:18])([H:19])[H:20])[C:7]1([C:8]([H:21])([H:22])[H:23])[C:9]([H:24])([H:25])[H:26])[H:12])([H:10])[H:11],132.047
[C:0]([C:1](=[O:2])[H:6])([H:3])([H:4])[H:5].[C:7]([C:8]([C:9]([O:10][O:11])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14]>>[C:0]([C:1]=[O:2])([H:3])([H:4])[H:5].[H:6][O:11][O:10][C:9]([C:8]([C:7]([H:12])([H:13])[H:14])([H:15])[H:16])([H:17])[H:18],56.9024
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[O:29][H:30]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[H:14][O:29][H:30],-5.736264
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[C:11]([C:12](=[C:13]([C:14]([H:30])([H:31])[H:32])[c:15]1[c:16]([H:33])[c:17]([H:34])[c:18]([H:35])[c:19]([H:36])[c:20]1[H:37])[c:21]1[c:22]([H:38])[c:23]([H:39])[c:24]([H:40])[c:25]([H:41])[c:26]1[H:42])([H:27])([H:28])[H:29]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:7])[C:12]([C:11]([H:27])([H:28])[H:29])([C:13]([C:14]([H:30])([H:31])[H:32])[c:15]1[c:16]([H:33])[c:17]([H:34])[c:18]([H:35])[c:19]([H:36])[c:20]1[H:37])[c:21]1[c:22]([H:38])[c:23]([H:39])[c:24]([H:40])[c:25]([H:41])[c:26]1[H:42])[H:6])([H:4])[H:5],59.7057
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][C:5]([H:13])([H:14])[H:15])[H:9])[H:8])([H:6])[H:7].[H:16]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:16])[H:9])[H:8])([H:6])[H:7].[C:5]([H:13])([H:14])[H:15],87.2916
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[H:7]>>[C:0](=[C:1][H:5])([H:3])[H:4].[S:2]([H:6])[H:7],25.1877
[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[O:27][H:28]>>[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11].[H:9][O:27][H:28],1.782384
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])[H:6].[C:12]([C:13]#[C:14][C:15]([H:19])([H:20])[H:21])([H:16])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([H:8])[C:13]([C:12]([H:16])([H:17])[H:18])=[C:14][C:15]([H:19])([H:20])[H:21])[H:7])([H:5])[H:6],83.931
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])([c:3]1[c:4]([H:16])[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]1[H:20])[H:12])([H:9])([H:10])[H:11].[S:21]=[C:22][S:23][H:24]>>[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])[c:3]1[c:4]([H:16])[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]1[H:20])([H:9])([H:10])[H:11].[H:12][C:22](=[S:21])[S:23][H:24],36.4008
